US08633183B2
A-78) 4-[5-(6-Amino-pyridin-3-ylethynyl)-6-methyl-pyrimidin-4-yl]-benzoic acid methyl ester
The title compound is synthesized according to general procedure GP4 starting from 2.0 g (8.2 mmol) 4-chloro-6-methyl-5-(6-amino-pyridin-3-ylethynyl)-pyrimidine using 2.2 g (12.3 mmol) 4-methoxycarbonylphenyl boronic acid, 240 mg (1.5 mmol) 287 mg (0.41 mmol) bis-(triphenylphoshine)palladium(II) chloride, 6.1 mL (12.3 mmol) of an aqueous 2 M Cs2CO3 and 2 mL EtOH in 5 mL DME. The reaction mixture is stirred for 1 h at 130° C. in the microwave. The reaction mixture is suspended in MeOH and the precipitated product is filtered off and washed with MeOH. After drying 2.2 g (77%) of the desired product are obtained as solid material.

reactant | 4-chloro-6-methyl-5-(6-amino-pyridin-3-ylethynyl)-pyrimidine | 8.2 mmol, 2.0 g | ClC1=NC=NC(=C1C#CC=1C=NC(=CC1)N)C | C12H9ClN4
reactant | Cs2CO3 | 2 M | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | EtOH | 2 mL | CCO | C2H6O
reactant | MeOH | CO | CH4O
solvent | DME | 5 mL | COCCOC | C4H10O2
catalyst | bis-(triphenylphoshine)palladium(II) chloride | 1.5 mmol, 240 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[5-(6-Amino-pyridin-3-ylethynyl)-6-methyl-pyrimidin-4-yl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C1=NC=NC(=C1C#CC=1C=NC(=CC1)N)C)=O | C20H16N4O2
